US09340538B2
3-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(3-fluoropyridin-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)propanoic acid
Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(3-fluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.72 g, 1.53 mmol) was reacted with 3-(morpholin-3-yl)propanoic acid hydrochloride (0.3 g, 1.53 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.3 g, 36%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(3-fluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.72 g | BrCC1=C(C(N=C(N1)C1=NC=CC=C1F)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C19H15BrClF2N3O2
reactant | 3-(morpholin-3-yl)propanoic acid hydrochloride | 1.53 mmol, 0.3 g | Cl.N1C(COCC1)CCC(=O)O
product | 3-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(3-fluoropyridin-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)propanoic acid | 0.3 g, 36% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=NC=CC=C1F)CN1C(COCC1)CCC(=O)O)C(=O)OCC | C26H27ClF2N4O5
